** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sch
.subckt gate_xor VDD S B A VSS
*.PININFO VSS:I B:I A:I VDD:I S:O
M2 VDD A net1 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M1 net1 -B S VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M4 VDD -A net2 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M5 net2 B S VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M6 S B net4 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
M3 net4 A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
M7 S -B net3 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
M8 net3 -A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
x3 VDD A -A VSS gate_inv_L0d13
x1 VDD B -B VSS gate_inv_L0d13
.ends

* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sch
.subckt gate_inv_L0d13 VDD VIN VOUT VSS
*.PININFO VDD:I VSS:I VIN:I VOUT:O
M2 VDD VIN VOUT VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
.ends

